US08304446B2
N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-cyano-1H-indazol-1-yl)methyl]phenyl}methyl)acetamide
TFA (1 mL) was added to 1,1-dimethylethyl({3-[(3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-cyano-1H-indazol-1-yl)methyl]phenyl}methyl)carbamate (for a preparation see Intermediate 73) (630 mg, 1.13 mmol) in DCM (4 mL) and the reaction was stirred at room temperature for 30 min. LCMS showed the boc group was removed and the reaction mixture was concentrated. The residue was dissolved in DCM (7 mL), triethylamine (1.573 mL, 11.29 mmol) and acetic anhydride (0.128 mL, 1.355 mmol) were added, and the reaction mixture was stirred for 30 min. The reaction was treated with water (10 mL) and the product was extracted with DCM (2×30 mL). The combined organic layers were dried by passing through a hydrophobic frit and concentrated to afford the crude product as a yellow oil (0.57 g). The residue was purified by chromatography on Flashmaster (silica 20 g cartridge), eluting with a gradient 25-100% EtOAc in DCM, followed by 0-30% MeOH in DCM) and the appropriate fractions were combined and concentrated to afford the title compound as a white solid (44 mg, 7%). Other fractions from the column were combined and concentrated to afford a yellow oil, (0.25 g), which was dissolved in MeOH (5 mL), potassium carbonate (300 mg) was added and the mixture was stirred at room temp for 30 min. LCMS showed one of the two acetyl groups was cleaved to afford more of the desired product. The mixture was concentrated and acidified with 2N HCl. The product was extracted with EtOAc (3×15 mL) and the combined organic layers were washed with saturated brine (5 mL), dried using a hydrophobic frit and evaporated in vacuo to give the crude product as a brown oil. The residue was dissolved in DMSO (1 mL) and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a Formic acid modifier (Method A). The solvent was evaporated in vacuo to give the title compound (70 mg, 12%). LCMS (System A) RT=0.92 min, ES+ve m/z 500/502 (M+H)+.

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1,1-dimethylethyl({3-[(3-{[(5-chloro-2-thienyl)sulfonyl]amino}-4-cyano-1H-indazol-1-yl)methyl]phenyl}methyl)carbamate | CC(C)(C)N(C([O-])=O)CC1=CC(=CC=C1)CN1N=C(C2=C(C=CC=C12)C#N)NS(=O)(=O)C=1SC(=CC1)Cl
reactant | triethylamine | 11.29 mmol, 1.573 mL | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 1.355 mmol, 0.128 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 4 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | N-({3-[(3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-cyano-1H-indazol-1-yl)methyl]phenyl}methyl)acetamide | 44 mg, 7% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)C#N)CC=1C=C(C=CC1)CNC(C)=O | C22H18ClN5O3S2
